data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2241,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)C2(O)C1=NC1=C(C=CC(C(=O)C3=CC=CC=C3)=C1)[NH+:1]2[H:2].CCO.NC1=C([NH2:3])C=C(C(=O)C2=CC=CC=C2)C=C1.O.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7599,"ClC1CCC[CH:1]([H:2])[C:3]1=[O:4].[Na][OH:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8439,"C=C[C:1](CC(C)=O)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1558,"C[N:1](C)[C:2](O)(O)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9694,"CCNC(C)(C)[OH:1].CC[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8104,"CCOC[C:1]1([OH:2])N(CC(C)(C)O)C2=C(C(N)=NC3=C2C=CC=C3)[NH:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8355,"CC#[C-:1].CC(=O)[NH:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6238,"C[C+:1]1C2=CC=CC=C2[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,9298,"CCOCC1C(O)C[CH:1]([N+:2]2=CC(C)=CC=C2)[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2519,"C[N:1](C=O)[Br:2].C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5694,"CC1(C)C2C[CH2:1][C:2]([OH:3])(C2)[C+:4]1CBr.O=C1CCC(=O)[N-]1|(3, 2);((2, 1), 4)"
train,pmechdb_split_0,0,1308,"CC(=O)[O:1][H:2].CC1=NC(C(C2=CC=CC=C2)[O-:3])C(=O)O1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4617,"CC(C1CCCC1=O)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,985,"CC[Si](C=CC[Si](C)(C)C)(CC)OC(CC=[O:1])C1=CC=CC=C1.C[Si:2](C)(C)OS(=O)(=O)C(F)(F)F|(1, 2)"
train,pmechdb_split_0,0,3005,"[Cl][Al-]([Cl])([Cl])[Cl+:1][C:2](CCCC1=CC=CC=C1)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3885,"C1CC[S:1][S:2]C1.C[S-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5341,"CC1(C)COC(=[O+:1][H:2])CC1O.CCO.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4653,"CC1=CCC([O-])(CCC2=CC=CC=C2)[NH+:1]1[H:2].CO.O.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7244,"CC(=O)[O:1][H:2].O=C(CCC(NCC1=CC=CC=C1)(C1=CC=CC=C1)[OH:3])C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3528,"F[B-](F)(F)[O+:1]1CCC[O:2][CH2:3]1|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,1482,"CC1C(O[Si](C)(C)C)(C2=CC=CC=C2)[O:1]1.O=C(C1=CC=CC(Cl)=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1900,"CO[C:1](CC(CC(CCO[Si](C)(C)C(C)(C)C)[O-:2])OC(C)=O)=[O:3].[Li+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1417,"C=C=C(C)[Si](C)(C)C.CC1C=CC(=[O:1])CCC1.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,9928,"CCC(=O)N[C:1]1=[CH:2]C=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1075,"COC(=O)[C:1](C)=[CH:2][N:3](CCC1=CC=C(OC)C(OC)=C1)C(=O)[CH:4]=[S+:5]C.CS(=O)(=O)[O-].O|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6283,"COC(=O)[C:1]1([H:2])C(C2=CC=CC=C2)NC(=O)[N+:3](C)=[C:4]1C1=CC=CC=C1.[OH2:5]|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7875,"CCN(CC)S(F)(F)[O+:1](CC)[H:2].[F-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1333,"CC(C)(C)[CH:1]=[CH2:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4770,"CC(C)[O+:1]=[C:2](C)C.CC(C)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2850,"CC1=CC=C(S(=O)(=O)N2C3C4OC(C)(C)OC4C(O[Si](C)(C)C(C)(C)C)C([O:1][H:2])C32)C=C1.C[C:3](C)(C)[Li:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5207,"C=[O+:1][Si-:2](C)(C)(C)OS(C)(=O)=O|((2, 1), 1)"
train,pmechdb_split_0,0,6499,"CCOC(=O)C[C:1](CC(=O)OCC)([OH+:2][B-](F)(F)F)[O:3]CCO.CCOCC.OCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3979,"OCCCC(O)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9516,"S[CH:1]=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10113,"[Cl][Sn-]([Cl])([Cl])([Cl])[O+:1]=[CH:2]C1=CC=CC=C1|((2, 1), 1)"
train,pmechdb_split_0,0,7513,"CCNC(CCC=O)(OC(C)=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5684,"CCC(=O)O[C+:1]1C=C[C:2](S(=O)(=O)O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,572,"CCOC(=O)N[N:1]([C:2](OCC)=[OH+:3])[P:4](OC(C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])COC1=CC=CC=C1|((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,4324,"CO[P:1](Cl)OC.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4812,"CC(=O)CC[CH:1]=[OH+:2].OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3275,"CC(=O)CCC(=O)C1=CC(C2=CC=C(C)N2)=CC([C:1](CC=C(C)[NH2:2])=[O:3])=C1.CC(=O)O.O.O=C[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2617,"CC1CCCC(C2=CC=CC=C2)[C:1](C2=CC=CC=C2)=[CH:2]1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1161,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.OC1([NH+:2](CC2=CC=CC=C2)[H:3])CCCCCCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7432,"CC[N+:1](CC)(CC)[H:2].O=[N+]([O-])C1=C(OP(=O)(Cl)Cl)[N:3]=C2C=CC=CC2=C1O.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7523,"C1CCOC1.CCOC(=O)C1=C[N-:1]C2=C(C=CC=C2)C1=O.COC(=O)C1=CC=C([CH2:2][Br:3])C=C1.[H][H].[Na+]|(1, 2);((2, 3), 3)"
